US07452911B2
3.55b 5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-2-(2-pyrrolidin-1-yl-ethoxy)-benzaldehyde
Prepared according to general working method I from 5-iodo-2-(2-pyrrolidin-1-yl-ethoxy)-benzaldehyde (1.50 g, 4.35 mmol) and 5-(4-chloro-phenyl)-2-ethynyl-pyridine (214 mg, 5.00 mmol).

reactant | 5-iodo-2-(2-pyrrolidin-1-yl-ethoxy)-benzaldehyde | 4.35 mmol, 1.50 g | IC=1C=CC(=C(C=O)C1)OCCN1CCCC1 | C13H16INO2
reactant | 5-(4-chloro-phenyl)-2-ethynyl-pyridine | 5.00 mmol, 214 mg | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#C | C13H8ClN
product | 5-[5-(4-chloro-phenyl)-pyridin-2-ylethynyl]-2-(2-pyrrolidin-1-yl-ethoxy)-benzaldehyde | ClC1=CC=C(C=C1)C=1C=CC(=NC1)C#CC=1C=CC(=C(C=O)C1)OCCN1CCCC1 | C26H23ClN2O2
